US07709511B2
a) N-(2,2-Diethyloxyethyl)-N-phenethyl-3-phenethyloxy-propanamide
3-Phenethyloxypropanoic acid (0.34 g) was dissolved in dichloromethane (20 mL) and treated with oxalyl chloride (0.32 g) and a drop of dimethylformamide at ambient temperature. The resultant solution was stirred at ambient temperature for 2 hours. The solution was then concentrated and azeotroped with dichloromethane (2×20 mL). The collected residue was dissolved in dichloromethane and added, portionwise, to a stirred solution of 2,2-diethoxy-N-phenethyl-ethanamine (0.41 g) and triethylamine (0.6 mL), dissolved in dichloromethane (20 mL), at ambient temperature. The resultant solution was stirred at ambient temperature for 2 hours. The mixture was then concentrated, taken up in ethyl acetate (50 mL), washed with water (2×25 mL), washed with brine (50 mL), dried over anhydrous magnesium sulphate, filtered and concentrated to give the sub-titled compound (0.53 g) as a viscous oil.

reactant | 3-Phenethyloxypropanoic acid | 0.34 g | C(CC1=CC=CC=C1)OCCC(=O)O | C11H14O3
reactant | oxalyl chloride | 0.32 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(2,2-Diethyloxyethyl)-N-phenethyl-3-phenethyloxy-propanamide | 0.53 g | C(C)OC(CN(C(CCOCCC1=CC=CC=C1)=O)CCC1=CC=CC=C1)OCC | C25H35NO4
